US09428510B2
4-(4-(tert-butoxycarbonyl)-3-nitrophenyl)-1-methylpyridinium iodide
7.55 mL of iodomethane (121 mmol) is added to a solution of 16.2 g of tert-butyl 2-nitro-4-(pyridin-4-yl)benzoate (60.6 mmol) in 20 mL of acetone. The reaction medium is heated at 60° C. for 4 hours and then at room temperature overnight. After dry concentration, 27 g of orange crystals are isolated (100%).

reactant | iodomethane | 121 mmol, 7.55 mL | IC | CH3I
reactant | tert-butyl 2-nitro-4-(pyridin-4-yl)benzoate | 60.6 mmol, 16.2 g | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=NC=C1 | C16H16N2O4
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-(4-(tert-butoxycarbonyl)-3-nitrophenyl)-1-methylpyridinium iodide | [I-].C(C)(C)(C)OC(=O)C1=C(C=C(C=C1)C1=CC=[N+](C=C1)C)[N+](=O)[O-] | InChI=1S/C17H19N2O4.HI/c1-17(2,3)23-16(20)14-6-5-13(11-15(14)19(21)22)12-7-9-18(4)10-8-12;/h5-11H,1-4H3;1H/q+1;/p-1
